US08802861B2
2-Amino-4-methyl-5-acetylthiazole (3 g, 19.2 mmol) is dissolved in DMF (30 mL). CDI (3.5 g, 21.1 mmol) is added and the mixture is stirred at RT for 3 h. Ammonia 0.5 N in dioxane is added (60 mL, 30 mmol) is added and the mixture is stirred for 2 days in a closed system. The resulting precipitate is recovered by filtration, washed with petroleum ether and dried under vacuo, affording N-(5-acetyl-4-methyl-1,3-thiazol-2-yl)urea as colorless solid (1.5 g, 39%).

reactant | 2-Amino-4-methyl-5-acetylthiazole | 19.2 mmol, 3 g | NC=1SC(=C(N1)C)C(C)=O | C6H8N2OS
reactant | CDI | 21.1 mmol, 3.5 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | Ammonia | 0.5 N | N | H3N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(5-acetyl-4-methyl-1,3-thiazol-2-yl)urea | 1.5 g, 39% | C(C)(=O)C1=C(N=C(S1)NC(=O)N)C | C7H9N3O2S
